US07381719B2
Using a method similar to Example 659, Step 1, using 2-isopropyl-3-methoxy-benzaldehyde (3.56 g, 20.0 mmol), nitromethane (3.25 ml, 60.0 mmol), ammonium acetate (2.00 g, 26.0 mmol) and acetic acid (25 ml) gave 2-isopropyl-1-methoxy-3-(2-nitro-vinyl)-benzene (3.92 g) as a viscous oil. 1H NMR (CDCl3): 8.48 (d, 1H), 7.38 (d, 1H), 7.20 (t, 1H), 7.02-6.96 (m, 2H), 3.84 (s, 3H), 3.41 (m, 1H), 1.36 (d, 6H).

reactant | 2-isopropyl-3-methoxy-benzaldehyde | 20.0 mmol, 3.56 g | C(C)(C)C1=C(C=O)C=CC=C1OC | C11H14O2
reactant | nitromethane | 60.0 mmol, 3.25 ml | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 26.0 mmol, 2.00 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-isopropyl-1-methoxy-3-(2-nitro-vinyl)-benzene | 3.92 g | C(C)(C)C1=C(C=CC=C1C=C[N+](=O)[O-])OC | C12H15NO3
